US07723378B2
To a solution of 5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid ethyl ester (715 mg, 3.0 mmol) in acetic acid (5 mL), bromine (480 mg, 3.0 mmol) is slowly added at rt. Upon completion of the addition, the mixture is heated to 50° C. and stirred for 4 h. The reaction is quenched by adding 1 N aq. NaOH and the mixture is extracted with DCM (3×50 mL). The organic extracts are dried (Na2SO4), filtered and evaporated to provide crude 3-bromo-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid ethyl ester (774 mg) as a brown oil; 1H NMR (CDCl3): δ 4.27 (q, J=7.6 Hz, 2H), 2.97 (t, J=7.0 Hz, 2H), 2.26 8 s, 2H), 1.51 (t, J=7.0 Hz, 2H), 1.33 8t, J=7.6 Hz, 3H), 0.95 (s, 6H).

reactant | 5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid ethyl ester | 3.0 mmol, 715 mg | C(C)OC(=O)C=1SC=C2C1CCC(C2)(C)C | C13H18O2S
reactant | bromine | 3.0 mmol, 480 mg | BrBr | Br2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 3-bromo-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid ethyl ester | 774 mg | C(C)OC(=O)C=1SC(=C2C1CCC(C2)(C)C)Br | C13H17BrO2S
